US06465504B1
4-[3,5-Bis(5-chloro-2-hydroxyphenyl)-[1,2,4]triazol-1-yl]benzoic acid
3.0 g of 6-chloro-2-(5-chloro-2-hydroxyphenyl)benz[e][1,3]oxazin-4-one and 1.7 g of 4-hydrazinobenzoic acid are boiled under reflux for 2 h in 40 ml of ethanol. The crystals precipitating on cooling are recrystallized from isopropanol. After drying, 4-[3,5-bis(5-chloro-2-hydroxyphenyl)-[1,2,4]triazol-1-yl]benzoic acid remains as colorless crystals of m.p. 275-278 C.

reactant | 6-chloro-2-(5-chloro-2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | 3.0 g | ClC=1C=CC2=C(C(N=C(O2)C2=C(C=CC(=C2)Cl)O)=O)C1 | C14H7Cl2NO3
reactant | 4-hydrazinobenzoic acid | 1.7 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-[3,5-Bis(5-chloro-2-hydroxyphenyl)-[1,2,4]triazol-1-yl]benzoic acid | ClC=1C=CC(=C(C1)C1=NN(C(=N1)C1=C(C=CC(=C1)Cl)O)C1=CC=C(C(=O)O)C=C1)O | C21H13Cl2N3O4
